* TPS54560 Peak Current-Mode Behavioral Switching Model for ngspice
*
* Based on TI TPS54560 datasheet (SLVSBE5) and TI PSpice transient model.
* Models all key behaviors: peak current-mode control, soft-start with
* Gm modulation, Eco-mode pulse-skipping, OVP, UVLO, and slope compensation.
*
* Pins: BOOT COMP EN GND SW RT VIN FB
*   BOOT — bootstrap supply (simplified, high-Z to SW)
*   COMP — error amplifier output; connect external compensation network here
*   EN   — enable pin; converter ON when V(EN) > 1.2V (typ)
*   GND  — power ground
*   SW   — switch node output
*   RT   — timing resistor pin (simplified, high-Z to GND)
*   VIN  — power input (4.5V to 60V operating range)
*   FB   — feedback input (regulation target: 0.8V)
*
* Parameters:
*   FS   — switching frequency in Hz (default 600kHz)
*
* Datasheet key specifications modeled:
*   - Error amp Gm: 78uA/V during soft-start, 350uA/V steady-state
*   - Error amp output current: +/- 30uA max (LIMIT)
*   - COMP voltage range: 0.6V to 2.0V (internal clamp)
*   - Eco-mode (pulse-skip) threshold: COMP < 0.65V
*   - Internal voltage reference: 0.800V +/- 1%
*   - Soft-start: 1024 switching cycles (Figure 21)
*   - High-side FET RDSon: 92mOhm typical
*   - OVP threshold: 107.5% of Vref (0.86V on FB)
*   - UVLO: 4.3V rising threshold
*   - EN threshold: 1.2V typical (1.1V min, 1.3V max)
*   - Slope compensation: ~63mV/us
*   - OCP: ~7A peak (cycle-by-cycle, set by COMP upper clamp)
*   - Current sense via RDSon, gain ~140mV/A
*   - Minimum on-time: 135ns typical
*   - External catch diode required (included here for convenience)
*
.SUBCKT TPS54560_TRANS BOOT COMP EN GND SW RT VIN FB FS=600k
*
* =====================================================================
* SOFT-START (1024 switching cycles, datasheet Figure 21)
* =====================================================================
* Ramps internal reference from 0 to 0.8V over 1024/FS seconds.
* At 600kHz: 1024/600k = 1.71ms. At 200kHz: 1024/200k = 5.12ms.
V_ss ss_ramp GND PULSE(0 0.8 0 {1024/FS} 0 10 10)
*
* =====================================================================
* ERROR AMPLIFIER (OTA) — Gm stage with soft-start modulation
* =====================================================================
* Datasheet: Gm = 350uA/V steady-state, 78uA/V during soft-start
* TI model: Gm ramps from 78uA/V to 350uA/V as ss_ramp crosses 0.7V
* Output current hard-limited to +/- 30uA (datasheet source/sink spec)
* Reference = min(0.8V, soft-start ramp)
B_gm GND COMP I = min(30u, max(-30u, (min(0.8, V(ss_ramp,GND)) - V(FB,GND)) * (78u + 272u * min(1, max(0, (V(ss_ramp,GND) - 0.7) * 10)))))
*
* Output impedance: Av = Gm * Ro ≈ 10,000 V/V (datasheet)
* 350uA/V * 28.57Meg = 10,000
R_comp_bias COMP GND 28.57Meg
*
* COMP lower clamp at 0.6V (TI model: diode clamp, datasheet Eco-mode floor)
* Prevents COMP from going below the Eco-mode threshold region
B_comp_lo GND COMP I = (V(COMP,GND) < 0.6) ? (0.6 - V(COMP,GND)) / 1k : 0
*
* COMP to PWM comparator input, clamped 0.6V to 1.05V
* Upper rail sets peak current limit: (1.05 - slope_comp) / 0.14 ≈ 7.2A
* This matches datasheet OCP range of 6.3-8.8A
B_comp_cl comp_cl GND V = min(max(V(COMP,GND), 0.6), 1.05)
*
* =====================================================================
* CURRENT SENSE (via high-side FET RDSon)
* =====================================================================
* When FET ON: V(VIN,SW) = IL * RDSon (small, typically < 1V)
* When FET OFF: V(VIN,SW) >> 5V (catch diode pulls SW below GND)
* Sense gain: 140mV/A → OCP at ~7.2A (comp_cl = 1.05V)
* Normal 5A avg (6.1A peak): sense = 0.854V, COMP ≈ 0.9V
* Leading-edge blanking: not explicitly modeled (small effect)
B_isense isense GND V = (V(VIN,SW) < 2) ? max(V(VIN,SW) / 0.092, 0) * 0.14 : 0
C_isense isense GND 1p
*
* =====================================================================
* SLOPE COMPENSATION (~63mV/us, datasheet)
* =====================================================================
* Prevents sub-harmonic oscillation at duty cycles > 50%.
* Ramp resets each switching cycle. Peak voltage at 600kHz:
* 63mV/us * (0.99/600kHz) = ~104mV
* 63mV/us = 63e3 V/s, so V_peak = 63e3 * 0.99/FS
V_slope slope_ramp GND PULSE(0 {63k*0.99/FS} 0 {0.99/FS} 5n 1n {1/FS})
*
* Sum of sensed current + slope compensation
B_sum sense_sum GND V = V(isense,GND) + V(slope_ramp,GND)
*
* =====================================================================
* CLOCK (sets SR latch at start of each switching cycle)
* =====================================================================
V_clk clk GND PULSE(0 1 0 5n 5n 20n {1/FS})
*
* =====================================================================
* MINIMUM ON-TIME (135ns typical, datasheet)
* =====================================================================
* Prevents premature current comparator trip during leading-edge noise.
* Uses a blanking pulse that holds the latch SET for 135ns after clock.
V_minon minon_pulse GND PULSE(0 1 0 5n 5n 135n {1/FS})
*
* =====================================================================
* SR LATCH — Peak current-mode PWM with Eco-mode pulse-skipping
* =====================================================================
* SET: on clock rising edge (if COMP > 0.65V, else pulse-skip)
* RESET: when sense_sum >= comp_cl (peak current reached)
* R-dominant: reset overrides set (cycle-by-cycle current limiting)
* Eco-mode: COMP < 0.65V inhibits SET → device skips pulses for
*   high efficiency at light loads (datasheet Eco-mode feature)
* Min on-time: during minon_pulse, reset is blocked
B_latch latch_drv GND V = ((V(sense_sum,GND) >= V(comp_cl,GND)) & (V(minon_pulse,GND) < 0.5)) ? 0 : (V(clk,GND) > 0.5) ? ((V(COMP,GND) > 0.65) ? 1 : V(q_filt,GND)) : V(q_filt,GND)
R_q latch_drv q_raw 10
C_q q_raw GND 10p
B_qfilt q_filt GND V = (V(q_raw,GND) > 0.5) ? 1 : 0
*
* =====================================================================
* PROTECTION: EN, UVLO, OVP
* =====================================================================
* EN threshold: 1.2V typical (datasheet: 1.1V min, 1.3V max)
B_en en_gate GND V = (V(EN,GND) > 1.2) ? 1 : 0
*
* UVLO: VIN must exceed 4.3V to enable (datasheet: 4.3V typ, 325mV hyst)
B_uvlo uvlo GND V = (V(VIN,GND) > 4.3) ? 1 : 0
*
* OVP: forces high-side OFF when FB > 0.86V (107.5% of 0.8V reference)
* Datasheet: OVP threshold 0.86V, hysteresis 24mV
B_ovp ovp GND V = (V(FB,GND) > 0.86) ? 0 : 1
*
* Master gate: all conditions must be met to enable switching
B_gate gate GND V = V(q_filt,GND) * V(en_gate,GND) * V(uvlo,GND) * V(ovp,GND)
*
* =====================================================================
* POWER STAGE
* =====================================================================
* High-side N-FET: RDSon = 92mOhm typical at 25°C (190mOhm max at 150°C)
S_hs VIN SW gate GND SW_HS
.model SW_HS SW VT=0.5 VH=0.1 Ron=92m Roff=100k
*
* External catch diode (Schottky) — required for TPS54560
* The TPS54560 is asynchronous (no internal low-side FET for rectification).
* An external Schottky diode must be placed from GND to SW.
* Included inside the subcircuit for modeling convenience.
* Model based on typical 60V/5A Schottky (e.g., B560C or similar)
D_ls GND SW D_CATCH
.model D_CATCH D IS=1e-5 N=1.05 RS=40m BV=60 TT=5n CJO=150p
*
* =====================================================================
* SIMPLIFIED PIN CONNECTIONS
* =====================================================================
* Bootstrap: real IC has internal diode from VIN to BOOT, charges BOOT cap
* when SW is low. BOOT-SW UVLO = 2.1V. Simplified as high-Z connection.
R_boot_int BOOT SW 1Meg
*
* RT pin: sets switching frequency via external resistor to GND.
* f_sw = 101756 / (R_RT_kohm ^ 1.008) [kHz]
* Simplified as high-Z to GND (frequency set by FS parameter instead).
R_rt_int RT GND 1Meg
*
.ENDS TPS54560_TRANS
